US06525042B1
1-[(6-Chloronaphthalen-2-yl)sulfonyl]-4-[(5-cyanobenzothiophen-2-yl)carbonyl]piperazine
In a similar manner to Referential Example 12 except for the use of 5-cyanobenzothiophen-2-carboxylic acid and 1-[(6-chloronaphthalen-2-yl)sulfonyl]piperazine hydrochloride as the raw materials, the reaction was conducted, whereby the title compound was obtained.

reactant | 5-cyanobenzothiophen-2-carboxylic acid | C(#N)C=1C=CC2=C(C=C(S2)C(=O)O)C1 | C10H5NO2S
reactant | 1-[(6-chloronaphthalen-2-yl)sulfonyl]piperazine hydrochloride | Cl.ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCNCC1
product | 1-[(6-Chloronaphthalen-2-yl)sulfonyl]-4-[(5-cyanobenzothiophen-2-yl)carbonyl]piperazine | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCN(CC1)C(=O)C=1SC2=C(C1)C=C(C=C2)C#N | C24H18ClN3O3S2
